US06949542B2
8-Chloro-4-[3-(6-methoxy-pyridin-3-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (4-chloro-2-{3-[3-(6-methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester (Example M47) (270 mg, 0.54 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (129 mg).

reactant | (4-chloro-2-{3-[3-(6-methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester | 0.54 mmol, 270 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)Cl)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)OC)=O)=O | C26H26ClN3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-4-[3-(6-methoxy-pyridin-3-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2C=NC(=CC2)OC)=O)C1 | C21H16ClN3O2
